US05990108
A mixture of 2.5 g of ethyl (ethylthio)iminoacetate tetrafluoroborate, 110 ml of acetic acid, 1.8 g of ethyl 4-aminoacetoacetate hydrochloride and 1.64 g of sodium acetate is heated for 3 hours at a temperature close to 95° C. The reaction mixture is filtered and the insoluble matter is rinsed with 3×5 ml of acetic acid. The filtrate is evaporated in a rotary evaporator and the evaporation residue is supplemented with 75 ml of dichloromethane. The organic solution is dried over sodium sulphate, filtered and evaporated in a rotary evaporator. The evaporation residue (1.86 g) is purified by chromatography on a silica column, eluting with ethyl acetate. 1.5 g of ethyl 4-(ethoxycarbonylmethyl)imidazole-2-carboxylate are obtained in the form of a red-yellow solid melting at 88° C.

reactant | ethyl (ethylthio)iminoacetate tetrafluoroborate | 2.5 g | F[B-](F)(F)F.C(C)SN=CC(=O)OCC
reactant | ethyl 4-aminoacetoacetate hydrochloride | 1.8 g | Cl.NCC(CC(=O)OCC)=O
reactant | sodium acetate | 1.64 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-(ethoxycarbonylmethyl)imidazole-2-carboxylate | 1.5 g | C(C)OC(=O)CC=1N=C(NC1)C(=O)OCC | C10H14N2O4
